US09422244B2
1.80 g (1 mol equiv.) 4-Ethyl-4,5-dihydro-pyrazole-1-carbothioic acid ethylamide was dissolved in 36 mL methanol; 6.1 mL (10 mol equiv.) iodomethane was added and the reaction mixture was heated at 50° C. for 4 hours. Volatiles were removed under reduced pressure, and the residue was taken up in DCM and extracted with 5% aqueous NaHCO3. The organic layer was washed twice with water, dried over Na2SO4, filtered and evaporated to dryness to yield 1.68 g (87%) 4,N-diethyl-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester. 1H NMR (400 MHz, CDCl3) δ 0.98 (t, J=7.5 Hz, 3H), 1.16 (t, J=7.3 Hz, 3H), 1.45-1.70 (m, 2H), 2.45 (s, 3H), 2.97-3.07 (m, 1H), 3.44 (dd, J=11.0, 8.3 Hz, 1H), 3.51-3.58 (m, 2H), 3.83 (t, J=11.0 Hz, 1H), 6.81 (s, 1H).

reactant | 4-Ethyl-4,5-dihydro-pyrazole-1-carbothioic acid ethylamide | 1 mol, 1.80 g | C(C)NC(=S)N1N=CC(C1)CC | C8H15N3S
reactant | iodomethane | 10 mol, 6.1 mL | IC | CH3I
solvent | methanol | 36 mL | CO | CH4O
product | 4,N-diethyl-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester | 1.68 g, 87% | CSC(=NCC)N1N=CC(C1)CC | C9H17N3S
